US07417060B2
To a solution of 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(isopropylthio)-4-biphenycarboxylic acid (131 mg) in N,N-dimethylformamide (2.6 ml) were added methanesulfonamide (24.9 mg), 4-(dimethylamino)pyridine (43.7 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (91.4 mg) at room temperature and the mixture was stirred at the same temperature for 72 hours. The mixture was poured into aqueous hydrochloric acid solution (0.3N) and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/3) to give tert-butyl [(2R)-2-hydroxy-2-phenylethyl](2-[3′-(isopropylthio)-4′-[[(methylsulfonyl)amino]carbonyl]-4-biphenylyl]ethyl]-carbamate (10 mg).

reactant | 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(isopropylthio)-4-biphenycarboxylic acid | 131 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)O)SC(C)C)C[C@@H](C1=CC=CC=C1)O | C31H37NO5S
reactant | methanesulfonamide | 24.9 mg | CS(=O)(=O)N | CH5NO2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 91.4 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 0.3N | Cl | ClH
solvent | N,N-dimethylformamide | 2.6 ml | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 43.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl [(2R)-2-hydroxy-2-phenylethyl](2-[3′-(isopropylthio)-4′-[[(methylsulfonyl)amino]carbonyl]-4-biphenylyl]ethyl]-carbamate | 10 mg | O[C@@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)SC(C)C)C1=CC=CC=C1 | C32H40N2O6S2
